US04898871
Triethylamine (2 cc) and 4-methylpentylamine (2 g) are added to a suspension, maintained under an argon atmosphere, of 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (5 g) in anhydrous dimethylformamide (50 cc). The reaction mixture is stirred for 1 hour 30 minutes at a temperature in the region of 20° C. and then heated with stirring to a temperature of 60° C. for 3 hours. After being cooled, the mixture is poured into ice (100 g) and water (300 cc) and then extracted with dichloromethane (2×200 cc). The organic phases are combined, washed with water (4×50 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. Ethyl acetate (300 cc) is added to the residue obtained. An insoluble product is removed by filtration and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue obtained is crystallized successively in ethyl acetate and acetonitrile. 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-(4-methylpentylamino)-1 -isoindolinone (1.4 g), m.p. 131° C., is thereby obtained.

reactant | Triethylamine | 2 cc | C(C)N(CC)CC | C6H15N
reactant | 4-methylpentylamine | 2 g | CC(CCCN)C | C6H15N
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 5 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | water | 300 cc | O | H2O
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
product | 2-(7-Chloro-1,8-naphthyridin-2-yl)-3-(4-methylpentylamino)-1 -isoindolinone | 1.4 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1NCCCC(C)C)=O | C22H23ClN4O
